US05686455
2-(4-Aminophenyl)4-(4-fluorophenyl)-5-(4-pyridyl)-1H-imidazole
A mixture containing 4-(4-fluorophenyl)-2-(4-nitrophenyl)-5-(4-pyridyl)-1H-imidazole (2.0 g, 5.6 mmol) [See Ex. 26 above] and 10% palladium on activated carbon (0.4 g) was stirred under an atmosphere of H2 for 4 h, then was filtered through a pad of Celite. The filtrate was concentrated under reduced pressure, and the residue was purified by flash chromatography, eluting with a solvent gradient of 1-10% MeOH/CHCl3. The title compound was obtained as a light orange solid (0.50 g, 27%): 1H NMR (DMSO-d6): δ8.40 (d, 2H); 7.73 (d, 2H); 7.57 (m, 2H); 7.35 (m, 4H); 6.62 (t, 2H).

reactant | 4-(4-fluorophenyl)-2-(4-nitrophenyl)-5-(4-pyridyl)-1H-imidazole | 5.6 mmol, 2.0 g | FC1=CC=C(C=C1)C=1N=C(NC1C1=CC=NC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C20H13FN4O2
catalyst | palladium on activated carbon | 0.4 g | [Pd] | Pd
product | 2-(4-Aminophenyl)4-(4-fluorophenyl)-5-(4-pyridyl)-1H-imidazole | NC1=CC=C(C=C1)C=1NC(=C(N1)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C20H15FN4
